US05374641
To 0.11 g of methyl 4-[2-amino-2- (3-pyridyl)ethyl]phenylacetate in 10 ml of dichloromethane were added 0.07 ml of triethylamine (0.07 ml) and 0.11 g of p-chlorobenzenesulfonyl chloride, and stirred overnight at room temperature. After completion of reaction, water was added to the reaction mixture, which was then extracted with dichloromethane, followed by washing in saturated aqueous sodium chloride solution and dried over magnesium sulfate to obtain residue of 0.31 g. The residue was subjected to chromatography on a silica gel column, which was then eluted with chloroform-methanol (10:1 v/v) to produce 0.1 g of methyl 4-[2-(4-chlorobenzenesulfonamido)-2-(3-pyridyl)ethyl]phenylacetate. The spectrometric data thereof supports the structure of [28] as follows.

reactant | methyl 4-[2-amino-2- (3-pyridyl)ethyl]phenylacetate | 0.11 g | NC(CC1=CC=C(C=C1)CC(=O)OC)C=1C=NC=CC1 | C16H18N2O2
reactant | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzenesulfonyl chloride | 0.11 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 4-[2-(4-chlorobenzenesulfonamido)-2-(3-pyridyl)ethyl]phenylacetate | 0.1 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(CC1=CC=C(C=C1)CC(=O)OC)C=1C=NC=CC1 | C22H21ClN2O4S
